US06632810B2
Synthesis of 2-hydroxymethyl-5,6,7-trimethoxybenzothiazole:
2-Ethoxycarbonyl-5,6,7-trimethoxybenzothiazole (1.04 g) was dissolved in methanol (30 mL), sodium borohydride (331 mg) was added to the solution under ice cooling, and the mixture was stirred at room temperature for 2 hours. Sodium borohydride (100 mg) was additionally added to the reaction mixture to conduct stirring for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:1) to obtain the title compound.

reactant | 2-Ethoxycarbonyl-5,6,7-trimethoxybenzothiazole | 1.04 g | C(C)OC(=O)C=1SC2=C(N1)C=C(C(=C2OC)OC)OC | C13H15NO5S
reactant | sodium borohydride | 331 mg | [BH4-].[Na+]
reactant | Sodium borohydride | 100 mg | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 2-hydroxymethyl-5,6,7-trimethoxybenzothiazole | OCC=1SC2=C(N1)C=C(C(=C2OC)OC)OC | C11H13NO4S
